US07420001B2
To (S)-3-methyl-2-{4′-[(5-methyl-benzooxazole-2-carbonyl)-amino]-biphenyl-4-sulfonylamino}-butyric acid tert-butyl ester (30 mg) was added 2 mL of TFA/CH2Cl2 (1:1). The solution was stirred at room temperature for 3 h. The solvents were removed under vacuum and the residue was triturated with ether. Filtration gave 14 mg of (S)-3-methyl-2-{4′-[(5-methyl-benzooxazole-2-carbonyl)-amino]-biphenyl-4-sulfonylamino}-butyric acid as a white solid. 1H NMR (400 MHz, DMSO-d6) δ ppm 0.76-0.93 (m, 6 H) 1.84-2.07 (m, 6 H) 3.56 (dd, 1 H) 7.70-7.95 (m, 8 H) 7.98-8.14 (m, 3 H) 11.32-11.41 (m, 1 H).

reactant | (S)-3-methyl-2-{4′-[(5-methyl-benzooxazole-2-carbonyl)-amino]-biphenyl-4-sulfonylamino}-butyric acid tert-butyl ester | 30 mg | C(C)(C)(C)OC([C@H](C(C)C)NS(=O)(=O)C1=CC=C(C=C1)C1=CC=C(C=C1)NC(=O)C=1OC2=C(N1)C=C(C=C2)C)=O | C30H33N3O6S
reactant | TFA CH2Cl2 | 2 mL | C(=O)(C(F)(F)F)O.C(Cl)Cl
product | (S)-3-methyl-2-{4′-[(5-methyl-benzooxazole-2-carbonyl)-amino]-biphenyl-4-sulfonylamino}-butyric acid | 14 mg | CC([C@@H](C(=O)O)NS(=O)(=O)C1=CC=C(C=C1)C1=CC=C(C=C1)NC(=O)C=1OC2=C(N1)C=C(C=C2)C)C | C26H25N3O6S
